US05866588
A solution of 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-en-1-ol (1.00 g, 2.99 mmol) in DCM (20 ml) was treated portionwise with manganese dioxide (4 g, 46 mmol). The reaction mixture was stirred vigorously for 3 hours before filtration through a glass fiber pad. The filtrate was concentrated under reduced pressure to yield 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-enal as a brown solid (0.924 g, 93%). 1H-NMR; δ (CDCl3), 9.87 (1H, d, J=9.5 Hz), 7.55 (1H, t, J=7.5 Hz), 7.50 (1H, d, J=15.5 Hz), 7.33 (1H, d, J=8.0 Hz), 7.21 (2H, d, J=8.5 Hz), 7.18-7.13 (2H, m), 7.08 (2H, d, J=8.5 Hz), 6.92 (1H, d, J=9.5 Hz), 3.27 (2H, d, J=9.5 Hz), 2.62-2.27 (4H, m), 2.39 (3H, s) and 1.81-1.77 (4H, m).

reactant | 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-en-1-ol | 2.99 mmol, 1.00 g | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C1=CC=CC(=N1)/C=C/CO | C22H26N2O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 46 mmol, 4 g | [O-2].[O-2].[Mn+4]
product | 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-enal | 0.924 g, 93% | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C1=CC=CC(=N1)/C=C/C=O | C22H24N2O
